US09278960B2
To a stirred solution of (S)-tert-butyl (1-oxopropan-2-yl)carbamate (3.15 g, 18.18 mmol), and DCM (91 ml) was added 2-amino-3,3,3-trifluoropropan-1-ol (2.230 g, 17.28 mmol). Stirred at ambient temperature for 10 minutes and then added sodium triacetoxyborohydride (5.78 g, 27.3 mmol). The mixture was stirred overnight. The reaction was diluted with DCM and then washed with 1 N NaOH, brine dried over MgSO4, filtered and the solvent removed to provide 4.0 grams of tert-butyl ((2S)-1-((1,1,1-trifluoro-3-hydroxypropan-2-yl)amino)propan-2-yl)carbamate as a colorless oil that was used without further purification. LRMS m/z (M+H)+ 287.3 found, 287.3 required.

reactant | (S)-tert-butyl (1-oxopropan-2-yl)carbamate | 18.18 mmol, 3.15 g | O=C[C@H](C)NC(OC(C)(C)C)=O | C8H15NO3
reactant | 2-amino-3,3,3-trifluoropropan-1-ol | 17.28 mmol, 2.230 g | NC(CO)C(F)(F)F | C3H6F3NO
reactant | sodium triacetoxyborohydride | 27.3 mmol, 5.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 91 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl ((2S)-1-((1,1,1-trifluoro-3-hydroxypropan-2-yl)amino)propan-2-yl)carbamate | 4.0 grams | FC(C(CO)NC[C@H](C)NC(OC(C)(C)C)=O)(F)F | C11H21F3N2O3
